US06444702B1
Synthesis of 1-(benzyloxycarbonyl)amino-3,5-dimethyl-7-hydroxyadamantane (13)
To a solution of 1-amino-3,5-dimethyl-7-hydroxyadamantane hydrochloride (570 mg) in DMF (5 mL) and water (0.3 mL) was added dibenzyl dicarbonate (1.41 g) and sodium carbonate (1.3 g). The reaction mixture was stirred overnight. The product was extracted with t-butyl methyl ether (500 mL) and washed with water (400 mL×2). The organic phase was dried using sodium sulfate and the solvent was removed in vacuo. The product was purified by flash column chromatography eluting with ethyl acetate and hexane (⅓, v/v) to afford 701 mg of white solid. 1H NMR (DMSO-d6, ppm): 7.35-7.28 (m, 5 H, C6H5), 6.96 (brs, 1 H, NH), 4.94 (s, 2 H, OCH2), 4.41 (1 H, OH), 1.62 (s, 2 H), 1.43 (s, 4 H), 1.24-1.14 (dd, 4 H, J=11.5,22.0 Hz), 0.97 (s, 2 H), 0.83 (s, 6 H, 2×CH3).

reactant | 1-amino-3,5-dimethyl-7-hydroxyadamantane hydrochloride | 570 mg | Cl.NC12CC3(CC(CC(C1)(C3)O)(C2)C)C
reactant | dibenzyl dicarbonate | 1.41 g | C(=O)(OCC1=CC=CC=C1)OC(=O)OCC1=CC=CC=C1 | C16H14O5
reactant | sodium carbonate | 1.3 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | water | 0.3 mL | O | H2O
product | 1-(benzyloxycarbonyl)amino-3,5-dimethyl-7-hydroxyadamantane | 701 mg | C(C1=CC=CC=C1)OC(=O)NC12CC3(CC(CC(C1)(C3)O)(C2)C)C | C20H27NO3
